US08975254B2
b) (R)—N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-2-(cyanomethyl)thiazole-4-carboxamide
The title compound was prepared from (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (380 mg, 1.45 mmol) and 2-(cyanomethyl)-thiazole-4-carboxylic acid (244 mg, 1.45 mmol) using the method of Example 34(d). Yield 70 mg. 1H NMR (400 MHz; d6-DMSO): δ 1.47 (d, 3H), 3.29 (s, 2H), 3.67 (m, 2H), 4.74 (m, 1H), 6.99 (d, 1H), 7.77 (m, 2H), 7.92 (d, 1H), 8.25 (d, 1H), 8.44 (m, 1H).

reactant | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 1.45 mmol, 380 mg | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C13H12F2N4
reactant | 2-(cyanomethyl)-thiazole-4-carboxylic acid | 1.45 mmol, 244 mg | C(#N)CC=1SC=C(N1)C(=O)O | C6H4N2O2S
product | (R)—N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-2-(cyanomethyl)thiazole-4-carboxamide | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)[C@@H](CNC(=O)C=1N=C(SC1)CC#N)C)F | C19H14F2N6OS
